US03956500
A quantity of 206 grams of 1-nitro-2-propanol was chloromethylated with 60 grams paraformaldehyde and excess hydrogen chloride according to the procedure given in Example I. The crude chloromethylether resulting was reacted with 154 grams of thiolacetic acid and then 154 grams of pyridine and distilled in vacuo after workup as described in Example I to give 123 grams of 1-nitro-2-acetylthiomethyloxy propane; structure confirmed by spectral analysis.

reactant | 1-nitro-2-propanol | 206 grams | [N+](=O)([O-])CC(C)O | C3H7NO3
reactant | paraformaldehyde | 60 grams | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
reactant | chloromethylether | ClCOCCl | C2H4Cl2O
reactant | thiolacetic acid | 154 grams | S1C(=CC=C1)CC(=O)O | C6H6O2S
product | 1-nitro-2-acetylthiomethyloxy propane | 123 grams | [N+](=O)([O-])CC(C)OCSC(C)=O | C6H11NO4S
